US06258824B1
6-[Amino-(5-chloro-pyridin-2-yl)-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one
The same procedure was used as that in example 3, except that 4-(3-chloro-phenyl)-6-[(5-chloro-pyridin-2-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-cyclopropylmethyl-1H-quinolin-2-one (258 mg, 0.486 mmol was used in the place of 4-(3-chloro-phenyl)-6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-1H-quinolin-2-one, to give the title compound as a white solid, 112 mg (0.21 mmol, 43% yield).

reactant | 4-(3-chloro-phenyl)-6-[(5-chloro-pyridin-2-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-cyclopropylmethyl-1H-quinolin-2-one | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C=1N(C=NC1)C)(O)C1=NC=C(C=C1)Cl)CC1CC1)=O | C29H24Cl2N4O2
reactant | 4-(3-chloro-phenyl)-6-[(6-chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-1-methyl-1H-quinolin-2-one | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C=1N(C=NC1)C)(O)C=1C=NC(=CC1)Cl)C)=O | C26H20Cl2N4O2
product | 6-[Amino-(5-chloro-pyridin-2-yl)-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1-cyclopropylmethyl-1H-quinolin-2-one | 43% yield | NC(C=1C=C2C(=CC(N(C2=CC1)CC1CC1)=O)C1=CC(=CC=C1)Cl)(C=1N(C=NC1)C)C1=NC=C(C=C1)Cl | C29H25Cl2N5O
